US08211901B2
Preparation of 6-(8-(trifluoromethyl)quinolin-4-yloxy)-1-naphthoic acid
The title compound (1.43 g, 49% yield) was prepared as a brown solid from 6-hydroxy-1-naphthoic acid (1.43 g, 7.6 mmol) and 4-chloro-8-(trifluoromethyl)quinoline (2.12 g, 9.14 mmol) by an analogous procedure to that described in example 1. LC-MS (m/z) 384 (M+1).

reactant | 6-hydroxy-1-naphthoic acid | 7.6 mmol, 1.43 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 4-chloro-8-(trifluoromethyl)quinoline | 9.14 mmol, 2.12 g | ClC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C10H5ClF3N
product | 6-(8-(trifluoromethyl)quinolin-4-yloxy)-1-naphthoic acid | 1.43 g, 49% yield | FC(C=1C=CC=C2C(=CC=NC12)OC=1C=C2C=CC=C(C2=CC1)C(=O)O)(F)F | C21H12F3NO3
